US07390923B2
a) (5-Amino-2-nitrophenyl)methanol
To a solution of 5-amino-2-nitrobenzoic acid (3.0 g, 16.4 mmol) in 40 ml of tetrahydrofuran was added 50 ml of borane-tetrahydrofuran complex (1.0 M solution in THF). The mixture was heated under reflux for one hour. The usual workup afforded the product. 1H NMR (400 MHz, DMSO-d6): 4.79 (2H, d, J=5.4 Hz), 5.37 (1H, t, J=5.4 Hz), 6.48 (1H, dd, J=9.0 Hz, J=2.5 Hz), 6.68 (2H, s), 6.99 (1H, d, J=2.5 Hz), 7.94 (1H, d, J=9.0 Hz).

reactant | 5-amino-2-nitrobenzoic acid | 16.4 mmol, 3.0 g | NC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H6N2O4
reactant | borane tetrahydrofuran | 1.0 M, 50 ml | B.O1CCCC1
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (5-Amino-2-nitrophenyl)methanol | NC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C7H8N2O3
